* C:\Users\Sony\Documents\GitHub\ELECTRO1_TP2\simulacion\opcion 2.asc
Q1 N001 N004 N005 0 BC547B
R1 N001 N004 680k
V1 N001 0 20
C1 N004 N003 1µ
R3 N003 N002 560
R4 N007 0 2.2k
Q2 N006 N006 0 0 BC547B
Q3 N005 N006 0 0 BC547B
C2 N005 N007 1µ
V2 N002 0 SINE(0 10mv 4k) AC 1
R2 N001 N006 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Sony\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 1 1000000000
.backanno
.end
